US05886033
2-Cyano-3-cyclopropyl-3-hydroxyacrylic acid (4-cyanophenyl)amide lysine salt
15 g (0.054 mol) of 2-cyano-3-cyclopropyl-3-hydroxyacrylic acid (4-cyanophenyl)amide are dissolved in 900 ml of water and 10 ml of ethanol together with 9.6 g (0.054 mol) of L-lysine hydrate, filtered and lyophilized. Adhering residual amounts of ethanol are removed by drying under reduced pressure.

reactant | 2-cyano-3-cyclopropyl-3-hydroxyacrylic acid (4-cyanophenyl)amide | 0.054 mol, 15 g | C(#N)C1=CC=C(C=C1)NC(C(=C(O)C1CC1)C#N)=O | C14H11N3O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | L-lysine hydrate | 0.054 mol, 9.6 g | O.N[C@@H](CCCCN)C(=O)O
solvent | water | 900 ml | O | H2O
product | 2-Cyano-3-cyclopropyl-3-hydroxyacrylic acid (4-cyanophenyl)amide lysine salt | N[C@@H](CCCCN)C(=O)O.C(#N)C1=CC=C(C=C1)NC(C(=C(O)C1CC1)C#N)=O | InChI=1S/C14H11N3O2.C6H14N2O2/c15-7-9-1-5-11(6-2-9)17-14(19)12(8-16)13(18)10-3-4-10;7-4-2-1-3-5(8)6(9)10/h1-2,5-6,10,18H,3-4H2,(H,17,19);5H,1-4,7-8H2,(H,9,10)/t;5-/m.0/s1
